US07179812B2
To a solution of 5-bromo-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine (0.213 g, 0.50 mmol), 1-but-3-ynyl-1H-[1,2,3]triazole (0.067 g, 0.55 mmol) and diisopropyl amine (iPr2NH) (2 ml) in DMF (4 ml) and THF (2 ml), copper iodide (CuI) (0.0048 g, 0.025 mmol) is added under stirring. After passing a stream of argon through the mixture for 10 min tetrakis(triphenylphosphine)palladium (0.029 g, 0.025 mmol) is added and the mixture is heated at 80° C. for 3 h. Ethyl acetate (150 ml) is added, the resulting mixture is washed with ammonium chloride (NH4Cl) and brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified by flash column chromatography (chloroform (100%)->ethyl acetate (100%)) yielding 5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine as a pale yellow solid. Yield 138 mg (59%).

reactant | 5-bromo-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine | 0.50 mmol, 0.213 g | BrC=1C=NC(=NC1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C17H11BrF3N3O2
reactant | 1-but-3-ynyl-1H-[1,2,3]triazole | 0.55 mmol, 0.067 g | C(CC#C)N1N=NC=C1 | C6H7N3
reactant | diisopropyl amine | 2 ml | C(C)(C)NC(C)C | C6H15N
reactant | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.025 mmol, 0.0048 g | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 0.025 mmol, 0.029 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine | N1(N=NC=C1)CCC#CC=1C=NC(=NC1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C23H17F3N6O2
